US08030298B2
4-(2-Ethoxy-3-hydroxy-17-oxo-estra-1,3,5(10)-trien-15α-yl)-butyric acid (IVα-(C2-D)-3a)
4-(3-Hydroxy-2-methoxy-17-oxo-estra-1,3,5(10)-trien-15α-yl)-butyric acid (IVα-(C2-B)-3a) and 4-(3-Hydroxy-2-(2-methoxy-ethoxy)-17-oxo-estra-1,3,5(10)-trien-15α-yl)-butyric acid (IVα-(C2-E)-3a)

reactant | 4-(3-Hydroxy-2-methoxy-17-oxo-estra-1,3,5(10)-trien-15α-yl)-butyric acid | OC1=CC=2CC[C@H]3[C@@H]4[C@H](CC([C@@]4(C)CC[C@@H]3C2C=C1OC)=O)CCCC(=O)O | C23H30O5
reactant | 4-(3-Hydroxy-2-(2-methoxy-ethoxy)-17-oxo-estra-1,3,5(10)-trien-15α-yl)-butyric acid | OC1=CC=2CC[C@H]3[C@@H]4[C@H](CC([C@@]4(C)CC[C@@H]3C2C=C1OCCOC)=O)CCCC(=O)O | C25H34O6
product | 4-(2-Ethoxy-3-hydroxy-17-oxo-estra-1,3,5(10)-trien-15α-yl)-butyric acid | C(C)OC=1C(=CC=2CC[C@H]3[C@@H]4[C@H](CC([C@@]4(C)CC[C@@H]3C2C1)=O)CCCC(=O)O)O | C24H32O5
